US07557127B2
A mixture of tert-butyl (3R)-3-({3-chloro-5-[(1E)-3-ethoxy-3-oxo-1-propen-1-yl]-2-pyridinyl}amino)-1-pyrrolidinecarboxylate (0.98 g) and 4N hydrogen chloride in dioxane solution (5 ml) in EtOH (10 ml) was stirred at ambient temperature for 4 hours. The reaction mixture was evaporated in vacuo and the residue was triturated with hexane was collected by filtration to give ethyl (2E)-3-{5-chloro-6-[(3R)-3-pyrrolidinylamino]-3-pyridinyl}acrylate dihydrochloride (0.9 g).ethyl (2E)-3-{5-chloro-6-[(3R)-3-pyrrolidinylamino]-3-pyridinyl}acrylate dihydrochloride

reactant | tert-butyl (3R)-3-({3-chloro-5-[(1E)-3-ethoxy-3-oxo-1-propen-1-yl]-2-pyridinyl}amino)-1-pyrrolidinecarboxylate | 0.98 g | ClC=1C(=NC=C(C1)\C=C\C(=O)OCC)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C19H26ClN3O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | EtOH | 10 ml | CCO | C2H6O
product | ethyl (2E)-3-{5-chloro-6-[(3R)-3-pyrrolidinylamino]-3-pyridinyl}acrylate dihydrochloride | 0.9 g | Cl.Cl.ClC=1C=C(C=NC1N[C@H]1CNCC1)/C=C/C(=O)OCC | InChI=1S/C14H18ClN3O2.2ClH/c1-2-20-13(19)4-3-10-7-12(15)14(17-8-10)18-11-5-6-16-9-11;;/h3-4,7-8,11,16H,2,5-6,9H2,1H3,(H,17,18);2*1H/b4-3+;;/t11-;;/m1../s1
